US07763639B2
4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}-1-METHYLPIPERIDINE
Preparation according to Example 18: 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and iodomethane (0.01 g). MS m/z (rel. intensity, 70 eV) 325 (M+, 63), 324 (bp), 305 (13), 191 (32), 133 (24).

reactant | 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine | 0.01 g | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCNCC1 | C12H13F4NO2S
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.01 g | IC | CH3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}-1-METHYLPIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCN(CC1)C | C13H15F4NO2S
